US09303020B2
To a stirred solution of 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-4,5-dihydro-1H-imidazole (1.0 g, 2.61 mmol) in DMSO (40 mL) at room temperature was added Dess-Martin periodinane (2.213 g, 5.22 mmol), and the stirring was continued at rt overnight. The reaction mixture was diluted with water. The product was extracted into EtOAc (100 mL×3), and the combined EtOAc extracts were washed with 10% NaHCO3 (100 mL×2) and brine, dried over Na2SO4 and then concentrated. The crude product was recrystallized from EtOAc and petroleum ethers to obtain 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-1H-imidazole as a yellow solid. Yield: 800 mg (80%). 1H NMR (300 MHz, DMSO-d6) δ ppm: 12.46 (br. s., 1H) 8.33 (s, 1H) 7.85-8.08 (m, 2H) 7.16-7.60 (m, 5H) 4.79 (d, J=5.95 Hz, 1H) 1.15-1.47 (m, 6H). LCMS: (ES+) m/z=382.24 (M+H)+; Column—ACQUITY UPLC BEH C8 (50×2.1 mm; 1.7 μm); M phase A: 5 mM Ammonium Acetate:MeCN (95:5); M phase B: 5 mM Ammonium Acetate:MeCN (5:95)

reactant | 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-4,5-dihydro-1H-imidazole | 2.61 mmol, 1.0 g | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NCCN1)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C20H18FN3O4
reactant | Dess-Martin periodinane | 5.22 mmol, 2.213 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-1H-imidazole | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NC=CN1)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C20H16FN3O4
